US07385085B2
Step 1. 4-Amino-4-(3-tert-butyl-phenyl)-cyclohexanone
A solution of 8-(3-tert-Butyl-phenyl)-1,4-dioxa-spiro[4.5]dec-8-ylamine hydrochloride (337 mg, 1.03 mmol) in glacial acetic acid (9 mL) and water (4 mL) was heated to 75° C. for 21 h, whereupon the reaction was deemed complete by HPLC analysis. The reaction mixture was basified with 2.5 N NaOH solution, then extracted with ethyl acetate (3×25 mL). The combined organic layers were washed (brine), dried (Na2SO4), filtered and concentrated under reduced pressure. Material was pure by HPLC/MS: retention time=1.18 min, method [7]; mass spec (ESI) 246 (MH+, 33), 229 (M−NH2+, 100), 228 (28), 173 (47).

reactant | 8-(3-tert-Butyl-phenyl)-1,4-dioxa-spiro[4.5]dec-8-ylamine hydrochloride | 1.03 mmol, 337 mg | Cl.C(C)(C)(C)C=1C=C(C=CC1)C1(CCC2(OCCO2)CC1)N
reactant | NaOH | 2.5 N | [OH-].[Na+]
solvent | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
solvent | water | 4 mL | O | H2O
product | 4-Amino-4-(3-tert-butyl-phenyl)-cyclohexanone | NC1(CCC(CC1)=O)C1=CC(=CC=C1)C(C)(C)C | C16H23NO
